US06506800B2
Preparation of 1-[(2E)-4-(4-chlorophenyl)-2,3-difluoro-6-(phenylsulfanyl)-2-hexenyl]-3-phenoxybenzene
To a stirred solution of 1-[(2E)-6-bromo-4-(4-chlorophenyl)-2,3-difluoro-2-hexenyl]-3-phenoxybenzene (0.308 g, 0.64 mmol) in ethanol (9.6 ml) under nitrogen was added sodium thiophenoxide (0.253 g, 1.91 mmol) and the resulting mixture was stirred at room temperature for two hours. The reaction mixture was concentrated in vacuo, diluted with water (25 ml) and extracted with methylene chloride (3×25 ml). The combined organic extracts were washed with water (2×25 ml), dried over anhydrous sodium sulfate and concentrated in vacuo to a colorless oil (0.187 g). Chromatography on a preparative thin layer silica gel plate eluting with ethyl acetate:hexane (5:95) afforded the title compound as a colorless oil (0.176 g) which was characterized by IR, 1HNMR and mass spectral analysis.

reactant | 1-[(2E)-6-bromo-4-(4-chlorophenyl)-2,3-difluoro-2-hexenyl]-3-phenoxybenzene | 0.64 mmol, 0.308 g | BrCCC(\C(=C(\CC1=CC(=CC=C1)OC1=CC=CC=C1)/F)\F)C1=CC=C(C=C1)Cl | C24H20BrClF2O
reactant | sodium thiophenoxide | 1.91 mmol, 0.253 g | [S-]C1=CC=CC=C1.[Na+]
solvent | ethanol | 9.6 ml | C(C)O | C2H6O
product | 1-[(2E)-4-(4-chlorophenyl)-2,3-difluoro-6-(phenylsulfanyl)-2-hexenyl]-3-phenoxybenzene | 0.176 g | ClC1=CC=C(C=C1)C(\C(=C(\CC1=CC(=CC=C1)OC1=CC=CC=C1)/F)\F)CCSC1=CC=CC=C1 | C30H25ClF2OS
